US07834051B2
(4RS,5SR)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethylpyrrolidin-2-one
To a solution of ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-(tert-butyldimethylsilyloxy)pentanoate (2.73 g) in methanol (13 mL) was added 10% palladium carbon (containing 50% water, 170 mg), and the mixture was stirred at room temperature for 3 hr under a hydrogen atmosphere and filtered. The filtrate was concentrated under reduced pressure, and the residue was dissolved in ethanol (20 mL). A 20% solution (4 mL) of sodium ethoxide-ethanol was added thereto, and the mixture was refluxed for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=10/1→1/2) to give the title compound (yield: 700 mg, 44%) and (4RS,5RS)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethylpyrrolidin-2-one (yield: 380 mg, 24%), each as an oil.

reactant | ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2-dimethyl-3-(tert-butyldimethylsilyloxy)pentanoate | 2.73 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)OCC)(C)C)O[Si](C)(C)C(C)(C)C)C | C23H39NO5Si
solvent | methanol | 13 mL | CO | CH4O
catalyst | palladium carbon | 170 mg | [C].[Pd]
product | (4RS,5RS)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethylpyrrolidin-2-one | yield: 380 mg, 24% | [Si](C)(C)(C(C)(C)C)OC1C(C(NC1C)=O)(C)C | C13H27NO2Si
